US07897762B2
3-(3-Amino-4-fluorophenyl)-1-tert-butyl-7-chloro-3,4-dihydro-1H-pyrido[4,3-d]pyrimidin-2-one (2.0 g, 5.7 mmol), CuI (200 mg, 1.05 mmol) and methylamine (200 mL) were combined in a steel bomb and heated to 180° C. for 48 h. The reaction vessel was cooled to −78° C., unsealed, and warmed to RT. The reaction was partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc. The combined organics were washed with brine (2×100 mL), dried (Na2SO4), concentrated and purified by neutral aluminum oxide column chromatography to provide 3-(3-amino-4-fluorophenyl)-1-tert-butyl-7-(methylamino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (900 mg, 46% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.76 (s, 1 H), 6.91 (dd, J=11.1, 8.7 Hz, 1 H), 6.61 (dd, J=8.1, 2.4 Hz, 1 H), 6.35-6.32 (m, 3 H), 5.14 (s, 2 H), 4.29 (s, 2 H), 2.74 (d, J=4.8 Hz, 3 H), 1.55 (s, 9 H); MS (ESI) m/z: 344.0 [M+H]+.

reactant | 3-(3-Amino-4-fluorophenyl)-1-tert-butyl-7-chloro-3,4-dihydro-1H-pyrido[4,3-d]pyrimidin-2-one | 5.7 mmol, 2.0 g | NC=1C=C(C=CC1F)N1C(N(C2=C(C1)C=NC(=C2)Cl)C(C)(C)C)=O | C17H18ClFN4O
reactant | methylamine | 200 mL | CN | CH5N
catalyst | CuI | 1.05 mmol, 200 mg | [Cu]I
product | 3-(3-amino-4-fluorophenyl)-1-tert-butyl-7-(methylamino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 900 mg, 46% yield | NC=1C=C(C=CC1F)N1C(N(C2=C(C1)C=NC(=C2)NC)C(C)(C)C)=O | C18H22FN5O
